Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___.
 
Chief Complaint:
Palpitations 
 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
The patient is a ___ yoF w/ a h/o HTN, sinus of valsalva 
aneurysm, and SVT presents with palpitations. She has had 
palpitations for the past ___ years and has been diagnosed with 
an SVT without any further characterization. She has not had an 
EP study and has been medically managed with beta blockers as 
her symptoms are infrequent.  
.  
This p.m. she awoke around 9 p.m. with palpitations, she also 
felt some L sided chest pressure, no radiation. Also some SOB 
and mild LH. This is exactly how all of her previous episodes 
have felt for the past ___ years. She has never experienced 
syncope from this, she has had 2 episodes in the past year 
(counting this one). She had her husband bring her to the ER and 
she took her 50mg po atenolol (she normally would take it in the 
a.m. but she did not take it earlier that day). She attempted 
CSM but was unsuccessful. Of note she worked a double shift that 
day and had 3 cups of coffee (but they were decaf). Also, she 
has a great functional capacity, she is able to walk 3 flights 
of stairs without any CP, only mild DOE if she is carrying bags 
up the stairs.  
.  
In the triage area her HR was 160, by the time she was in a room 
her HR came down to normal and she was in sinus rhythm.  ED 
vitals were HR ___, 18, 100% RA.
 
Past Medical History:
HTN  
SVT  
Sinus of valsalva aneurysm (not seen on most recent 2 previous 
echos)  
Uterine fibroids with menometrorrhagia.  
Left breast cyst removal.  
Migraine headaches.  
 
Social History:
___
Family History:
There is no family history of early premature  
coronary disease, sudden cardiac death in the family. Father is  

deceased at age ___ from a stroke and history of hypertension,  
mother is ___, has hypertension. She has three brothers. She is  
unclear on their medical history. She has a paternal aunt who  
has congestive heart failure and there is an extensive family  
history of hypertension. No history of marfans, Erlos Danlos in 
the family.
 
Physical Exam:
VS: T 97.6 BP 119/83 HR 64 RR 18 O2 99% RA  
GENERAL: NAD, AOX3  
HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were 
pink, no pallor or cyanosis of the oral mucosa. No xanthalesma.  

NECK: Supple, unable to appreciate JVP  
CARDIAC: RRR, normal S1, S2. No m/r/g. No thrills, lifts. No S3 
or S4.  
LUNGS: No chest wall deformities, scoliosis or kyphosis. Resp 
were unlabored, no accessory muscle use. CTAB, no crackles, 
wheezes or rhonchi.  
ABDOMEN: Soft, NTND. No HSM or tenderness. Abd aorta not 
enlarged by palpation. No abdominial bruits.  
EXTREMITIES: No c/c/e. No femoral bruits.  
SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.  
PULSES:  
Right: Carotid 2+ DP 2+ ___ 2+  
Left: Carotid 2+ DP 2+ ___ 2+  
 
Pertinent Results:
___ 10:30PM   CK-MB-2
___ 10:30PM   cTropnT-<0.01
___ 10:30PM   CK(CPK)-155*
___ 10:30PM   ___ PTT-19.8* ___
___ 10:30PM   WBC-8.7# RBC-5.23 HGB-14.8 HCT-40.1 MCV-77* 
MCH-28.4 MCHC-37.1* RDW-14.8
___ 10:30PM   GLUCOSE-120* UREA N-15 CREAT-1.0 SODIUM-140 
POTASSIUM-4.4 CHLORIDE-102 TOTAL CO2-31 ANION GAP-11

Echo ___:
LEFT ATRIUM: Normal LA size. 

RIGHT ATRIUM/INTERATRIAL SEPTUM: Normal RA size. 

LEFT VENTRICLE: Normal LV wall thickness, cavity size and 
regional/global systolic function (LVEF >55%). TDI E/e' < 8, 
suggesting normal PCWP (<12mmHg). No resting LVOT gradient. No 
VSD. 

RIGHT VENTRICLE: Normal RV chamber size and free wall motion. 

AORTA: Normal aortic diameter at the sinus level. Normal 
ascending aorta diameter. Mildly dilated aortic arch. 

AORTIC VALVE: Normal aortic valve leaflets (3). No AS. No AR. 

TRICUSPID VALVE: Normal tricuspid valve leaflets with trivial 
TR. Normal tricuspid valve supporting structures. No TS. Normal 
PA systolic pressure. 

PULMONIC VALVE/PULMONARY ARTERY: Normal pulmonic valve leaflet. 
No PS. Physiologic PR. Normal main PA. No Doppler evidence for 
PDA 

PERICARDIUM: No pericardial effusion.  
Conclusions  
The left atrium is normal in size. Left ventricular wall 
thickness, cavity size and regional/global systolic function are 
normal (LVEF 70%). Tissue Doppler imaging suggests a normal left 
ventricular filling pressure (PCWP<12mmHg). There is no 
ventricular septal defect. Right ventricular chamber size and 
free wall motion are normal. The aortic arch is mildly dilated. 
The aortic valve leaflets (3) appear structurally normal with 
good leaflet excursion and no aortic regurgitation. The 
estimated pulmonary artery systolic pressure is normal. There is 
no pericardial effusion. 

No definite sinus of Valsalva aneurysm seen.

Compared with the findings of the prior study (images reviewed) 
of ___, no major change is evident.   

 
Brief Hospital Course:
The patient is a ___ yoF w/ a h/o SVT presents w/ palpitations in 
setting on med non-compliance. Completed ___.
.
Plan:
# Palpitations: She has a history of SVT, not further 
characterized and we have no available strips for diagnosis of 
her SVT. She has not had an EP study. Given that in the past she 
was diagnosed with an SVT that is infrequent possibilities 
include AVNRT, AVRT, atrial tachycardia and less likely afib / 
aflutter. She is on atenolol 50mg daily and most of her episodes 
have been in the setting of forgetting to take her atenolol. 
Given that her episodes are so infrequent; continuing medical 
management is likely the best option.  
-continue atenolol 50mg daily  
-tele overnight  
Outpatient cardiologist/PCP can consider EP study if these 
episodes become more frequent and are not in the context of med 
non-compliance.
.  
# EKG changes: the patient has some mild ST depressions in V5 
and V6 which are rate related. She has a great functional 
capacity and has no anginal symptoms when she walks up 3 flights 
of stairs. Patient completed ___.
. 
# Aneurysm of sinus of Valsalva -  Most likely from congenital 
source. No history of shyllips, no joint laxity. This type of 
aneurysm is typically congenital and may be associated with 
heart defects. It is sometimes associated with Marfan syndrome 
or ___ syndrome, but may also result from Eh___ 
syndrome, atherosclerosis, syphilis, cystic medial necrosis, 
chest injury, or infective endocarditis. Recent echo did not 
show this. Echo ___: Normal aortic diameter at the sinus 
level. Normal ascending aorta diameter. Mildly dilated aortic 
arch. Normal aortic valve leaflets (3). No AS. No AR. This is to 
be followed up as outpatient with cardiology. 

# HTN: on HCTZ and atenolol, BP is well controlled.  
-continue home doses of these medications.  
.  
# FEN: Regular diet  
.  
# ACCESS: PIVs  
.  
# PROPHYLAXIS: ambulate, not at excessive risk for DVT  
.  
# CODE: full  

 
Medications on Admission:
HCTZ 25mg daily  
Atenolol 50mg daily  
 
Discharge Medications:
1. Atenolol 50 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  
2. Hydrochlorothiazide 12.5 mg Capsule Sig: One (1) Capsule PO 
DAILY (Daily).  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary:
palpitations, SVT in setting of medication non-compliance

Secondary:
Sinus of valsalva aneurysm
hypertension

 
Discharge Condition:
stable, HR in the ___

 
Discharge Instructions:
You were admitted for palpitations in the setting of not taking 
your Atenolol. You were admitted to the floor for concerning EKG 
changes which resolved once the atenolol took effect. You were 
ruled out for a heart attack. 

No medication changes were made. Take all medications as 
prescribed.

Please return to the ED if you have palpitations that do not 
resolve when you take your medications. 
 
Followup Instructions:
___